US04203987
8,9-Dichloro-2,3,4,4a-Tetrahydro-3-[2-(4-Pyridinyl)Ethyl]-1H-Pyrazino[1,2-a]Quinoxaline-5(6H)-One
Treatment of 8,9-dichloro-2,3,4,4a-tetrahydro-1H-pyrazino-[1,2-a]quinoxalin-5(6H)-one (3 g.) with 5.4 g. of 4-vinylpyridine in the manner described in Example 1 gave 2.2 g. of the title compound as the dihydrochloride salt, m.p. 266°-269° C. (dec.).

reactant | 8,9-dichloro-2,3,4,4a-tetrahydro-1H-pyrazino-[1,2-a]quinoxalin-5(6H)-one | 3 g | ClC=1C=C2NC(C3N(C2=CC1Cl)CCNC3)=O | C11H11Cl2N3O
reactant | 4-vinylpyridine | C(=C)C1=CC=NC=C1 | C7H7N
product | 8,9-Dichloro-2,3,4,4a-Tetrahydro-3-[2-(4-Pyridinyl)Ethyl]-1H-Pyrazino[1,2-a]Quinoxaline-5(6H)-One | ClC=1C=C2NC(C3N(C2=CC1Cl)CCN(C3)CCC3=CC=NC=C3)=O | C18H18Cl2N4O
